US05932075
Preparation of (2-methoxyethyl)benzene
A mixture of (2-bromoethyl)benzene (2.0 g) and methanol (60 mL) in a PEEK vessel equipped with a magnetic stirrer bar was placed into the reactor, and the cover sealed. The mixture was stirred and heated to 149° C. (1.08 MPa) within 10 min and held at this temperature for 2 hours. Samples were withdrawn periodically and analysed. The mixture was then cooled. After 1 hour the conversion to (2-methoxyethyl)benzene was 50% increasing to 80% after 2 hours. GC/MS: m/z (rel.int. %) 136(M +, 13), 104(8), 91(28), 77(6), 65(11), 63(4), 51(9), 50(4), 45(100). 1H NMR, (CDCl3 ; 200 MHz): δ7.23, m, 5H, Ar; 3.6, t, 2H, --CH2 --O--CH3 ; 3.4, s, 3H, --O --CH3 ; 2.9, t, 2H, Ar--CH2 --.

reactant | (2-bromoethyl)benzene | 2.0 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | methanol | 60 mL | CO | CH4O
product | (2-methoxyethyl)benzene | COCCC1=CC=CC=C1 | C9H12O
